US08809539B2
1-Hydroxybenzotriazole hydrate (1.35 g, 0.01 mol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl (1.95 g, 0.01 mol) are added to a stirred N,N-dimethylformamide solution (20 mL) of 4-hydroxymethylbenzoic acid (1.52 g, 0.01 mol). 2-Fluoro-N-hydroxybiphenyl-4-carboxamidine (2.3 g, 0.01 mol) is added to the reaction mixture which is then heated at 130-140° C. for 4 hrs. The reaction mixture is cooled to room temperature, Demineralized water (60 mL) is added and the aqueous layer is extracted with ethyl acetate (3×20 mL). Combined organic layers are washed with demineralized water (2×10 mL) followed by brine (1×20 mL) and finally dried over sodium sulphate. Removal of ethyl acetate under reduced pressure gives a crude liquid which is purified by column chromatography (silica gel 230-400 mesh, ethyl acetate:n-hexane 30:70) to furnish {4-[3-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-5-yl]phenyl}methanol.

reactant | 1-Hydroxybenzotriazole hydrate | 0.01 mol, 1.35 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide HCl | 0.01 mol, 1.95 g | Cl.CN(CCCN=C=NCC)C
reactant | 4-hydroxymethylbenzoic acid | 0.01 mol, 1.52 g | OCC1=CC=C(C(=O)O)C=C1 | C8H8O3
reactant | 2-Fluoro-N-hydroxybiphenyl-4-carboxamidine | 0.01 mol, 2.3 g | FC1=C(C=CC(=C1)C(=N)NO)C1=CC=CC=C1 | C13H11FN2O
solvent | water | 60 mL | O | H2O
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | {4-[3-(2-fluorobiphenyl-4-yl)-1,2,4-oxadiazol-5-yl]phenyl}methanol | FC1=C(C=CC(=C1)C1=NOC(=N1)C1=CC=C(C=C1)CO)C1=CC=CC=C1 | C21H15FN2O2
